US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(1,3-thiazol-2-yl)-1H-indole-7-carboxamide
3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide (60 mg, 0.14 mmol), 2-bromo-1,3-thiazole (29 mg, 1.2 eq), PdCl2(dppf)-CH2Cl2 adduct (19 mg, 0.02 mmol, 0.16 eq), potassium carbonate (90 mg, 4.6 eq) were diluted in a mixture of dioxane (3 mL) and water (1.5 mL) in a 2-5 mL biotage microwave reaction tube. After the mixture was degassed by bubbling argon through for 5 minutes, it was heated in a biotage microwave at normal absorption for 5 minutes at 10° C. The reaction mixture was filtered through a thiol SPE cartridge (polymer labs), then was concentrated and purified by ammonium hydroxide gilson hplc. The desired fractions were combined and concentrated in an EZ2 Genevac evaporator, giving the title compound (12 mg, 25%).

reactant | 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide | 0.14 mmol, 60 mg | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(=O)N)=O | C20H27BN2O5S
reactant | 2-bromo-1,3-thiazole | 29 mg, 1.2 eq | BrC=1SC=CN1 | C3H2BrNS
reactant | potassium carbonate | 90 mg, 4.6 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.02 mmol, 19 mg, 0.16 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(1,3-thiazol-2-yl)-1H-indole-7-carboxamide | 12 mg, 25% | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CN1)C(=O)N)=O | C17H17N3O3S2
